US04686230
(a) 2-(1-Chloroethyl)-4-methoxy-pyridine hydrochloride
36 ml of thionyl chloride are added dropwise to a cooled suspension of 57 g of (±)-1-[4-methoxy-2-pyridyl]ethanol in 400 ml of dichloromethane, in such a way that the internal temperature does not exceed 15° C. The mixture is then heated under reflux for 2.5 h, treated with 300 ml of toluene and concentrated to 150 ml. The reaction product which has precipitated is filtered off with suction and rinsed with cold toluene and petroleum ether. This gives 76.4 g (98.2%) of the title compound of m.p. 113°-116° C.

reactant | thionyl chloride | 36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (±)-1-[4-methoxy-2-pyridyl]ethanol | 57 g | COC1=CC(=NC=C1)C(C)O | C8H11NO2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(1-Chloroethyl)-4-methoxy-pyridine hydrochloride | Cl.ClC(C)C1=NC=CC(=C1)OC | InChI=1S/C8H10ClNO.ClH/c1-6(9)8-5-7(11-2)3-4-10-8;/h3-6H,1-2H3;1H
